US06903097B2
N-(4-chlorobenzyl)-4-hydroxy-2-oxo-7-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]-2H-pyrido[1,2-a]pyrimidine-3-carboxamide [AA.2]
5-(3-(Tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-2-pyridinylamine (Preparation 6, 30 mg) and diethyl 2-(((4-chlorobenzyl)amino)carbonyl)malonate (Preparation 5, 50 mg) are dissolved in xylene and heated to reflux for 3 h. The solvent is evaporated and the residue is crystallized from ether/hexanes and dried to afford 20 mg of the a brown solid. Physical characteristics: MS (ESI+) m/z 470 (M+H)+. 1H NMR (CDCl3) δ9.80, 9.12, 7.80, 7.52, 7.32, 7.27, 4.86, 4.65, 4.51, 3.90, 3.5-3.6, 1.55-1.9.

reactant | 5-(3-(Tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-2-pyridinylamine | 30 mg | O1C(CCCC1)OCC#CC=1C=CC(=NC1)N | C13H16N2O2
reactant | diethyl 2-(((4-chlorobenzyl)amino)carbonyl)malonate | 50 mg | ClC1=CC=C(CNC(=O)C(C(=O)OCC)C(=O)OCC)C=C1 | C15H18ClNO5
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-chlorobenzyl)-4-hydroxy-2-oxo-7-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]-2H-pyrido[1,2-a]pyrimidine-3-carboxamide | ClC1=CC=C(CNC(=O)C=2C(N=C3N(C2O)C=C(C=C3)C#CCOC3OCCCC3)=O)C=C1 | C24H22ClN3O5
